US08283364B2
2-Bromo-6-fluoro-4-methylaniline (D31)
A stirred solution of 4-methyl-2-fluoroaniline (15 g, 0.12 mol) in acetic acid (120 ml) at 15° C. under argon was treated portionwise over 20 minutes with solid N-bromosuccinimide (24 g, 0.135 mol), then allowed to warm to room temperature and stirred for 1 hr. The reaction mixture was treated with water (500 ml) and extracted with ethyl acetate (2×300 ml). The combined extract was washed with water (2×500 ml), then excess 10% Na2CO3 solution (400 ml). The ethyl acetate solution was dried (Na2SO4) and concentrated under vacuum to leave the title compound as a dark red oil (24.0 g, 98%).

reactant | 4-methyl-2-fluoroaniline | 0.12 mol, 15 g | CC1=CC(=C(N)C=C1)F | C7H8FN
reactant | N-bromosuccinimide | 0.135 mol, 24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-6-fluoro-4-methylaniline | 24.0 g, 98% | BrC1=C(N)C(=CC(=C1)C)F | C7H7BrFN
